US09024027B2
To a solution of tert-butyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (500 mg, 1.411 mmol) (prepared in an analogous manner as previously described in Example 34, Scheme 34, Steps 1, 2, 3) in acetonitrile (10 ml), K2CO3 (390 mg, 2.82 mmol) and 2-(chloromethyl)thiophene (281 mg, 2.116 mmol) (obtainable as described in U.S. Pat. No. 5,716,943, which is incorporated herein by reference in its entirety) were added, and the reaction was heated under microwave irradiation at 120° C. for 3 hours. The mixture was filtered and the filtrate was evaporated to dryness. The resulting crude was purified by flash chromatography on silica gel (hexane/EtOAc 2/1) affording tert-butyl 2-(1,3-dioxo-5-(N-(thiophen-2-ylmethyl)methylsulfonamido)-isoindolin-2-yl)acetate (600 mg, 1.332 mmol, 94% yield, MS/ESI+ 472.9 [MNa]+).

reactant | tert-butyl 2-(5-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 1.411 mmol, 500 mg | CS(=O)(=O)NC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC(C)(C)C)=O | C15H18N2O6S
reactant | K2CO3 | 2.82 mmol, 390 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(chloromethyl)thiophene | 2.116 mmol, 281 mg | ClCC=1SC=CC1 | C5H5ClS
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | tert-butyl 2-(1,3-dioxo-5-(N-(thiophen-2-ylmethyl)methylsulfonamido)-isoindolin-2-yl)acetate | 1.332 mmol, 600 mg, 94% yield | O=C1N(C(C2=CC(=CC=C12)N(S(=O)(=O)C)CC=1SC=CC1)=O)CC(=O)OC(C)(C)C | C20H22N2O6S2
